US05298627
To a stirred -10° C. solution of N,N-diethylacetamide (prepared from N,N-diethylamine and acetyl chloride by refluxing for 2 hours in toluene) (28.75 g, 0.25 mol) in tetrahydrofuran (0.25 L) is slowly added a solution of lithium diisopropylamide in tetrahydrofuran-heptane (0.125 L of 2M) while maintaining the temperature between -10° C. to -5° C., and the mixture is stirred at -20° C. to 0° C. for 30 minutes. (R)-4-cyano-3-hydroxybutyric acid, ethyl ester (Brower, supra) (10 g, 0.06 mol) as a solution in 200 mL of tetrahydrofuran is added to the previously prepared mixture. The reaction mixture is stirred for 30 minutes at -5° C. to -20° C., and transferred to a 2.2N aqueous hydrochloric acid solution (0.25 L). The aqueous layer is extracted with 300 mL of ethyl acetate, the aqueous layer is separated and reextracted with 50 mL of ethyl acetate, the extracts are combined and concentrated in vacuo to afford crude (R)-6-cyano-N,N-diethyl-5-hydroxy-3-oxohexanamide as an oil;

reactant | N,N-diethylacetamide | 0.25 mol, 28.75 g | C(C)N(C(C)=O)CC | C6H13NO
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (R)-4-cyano-3-hydroxybutyric acid, ethyl ester | 0.06 mol, 10 g | C(#N)C[C@H](CC(=O)OCC)O | C7H11NO3
reactant | hydrochloric acid | 2.2N, 0.25 L | Cl | ClH
solvent | tetrahydrofuran | 0.25 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran heptane | 2M, 0.125 L | O1CCCC1.CCCCCCC
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (R)-6-cyano-N,N-diethyl-5-hydroxy-3-oxohexanamide | C(#N)C[C@H](CC(CC(=O)N(CC)CC)=O)O | C11H18N2O3
